US04272449
A solution of 3.86 g (20 mmol) of 2-(4-chlorophenylamino)-3-methylbutyronitrile in 10 ml of methanol is saturated at reflux with hydrogen chloride gas. When all of the starting nitrile has been consumed, most of the methanol and excess hydrogen chloride is removed in vacuo. Ether is added to precipitate the hydrochloride of methyl 2-(4-chlorophenyl)-3-methylbutanimidate, which is isolated by filtration under nitrogen. The white solid is added with vigorous stirring to an ice-cold mixture of ether and aqueous sodium bicarbonate. The aqueous layer is discarded, and the ethereal layer is washed with cold water and dried over sodium sulfate. Filtration and concentration in vacuo gives methyl 2-(4-chlorophenylamino)-3-methylbutanimidate.

reactant | 2-(4-chlorophenylamino)-3-methylbutyronitrile | 20 mmol, 3.86 g | ClC1=CC=C(C=C1)NC(C#N)C(C)C | C11H13ClN2
reactant | hydrogen chloride | Cl | ClH
reactant | ether | CCOCC | C4H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | methyl 2-(4-chlorophenylamino)-3-methylbutanimidate | ClC1=CC=C(C=C1)NC(C(OC)=N)C(C)C | C12H17ClN2O
